US06573270B1
2-{[5-(bis{[4-(tert-butyl)phenyl]sulfonyl}amino}-1-{2-{[tert-butyl(dimethyl)silyl]oxy}ethyl}-4-{4-methylphenyl}-1H-pyrazol-3-yl]oxy}ethyl acetate
A solution of 2-{[5-amino-1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-4-(4-methylphenyl)-1H-pyrazol-3-yl]oxy}ethyl acetate (0.35 g) (Preparation 30), 4-(tert-butyl)phenylsulfonyl chloride (0.25 g) and 4-(N,N-dimethyl)aminopyridine (98 mg) in pyridine (4 ml) was stirred at room temperature overnight. Tlc (30:70 ethyl acetate/hexane) indicated a new less polar product had formed, but the reaction appeared to have proceeded only 50% to completion. A further aliquot of the sulfonyl chloride (0.25 g) was added to the reaction mixture and stifling at room temperature was continued for a further 4 days. Tlc analysis then indicated complete disappearance of the starting materials and a single new product was observed. The reaction mixture was poured into saturated copper (II) sulfate solution (100 ml) and the aqueous mixture was extracted with ether (2×5 ml). The combined ether extracts were washed with saturated copper (II) sulfate solution (30 ml). The organic extract was dried over magnesium sulfate, filtered and concentrated under reduced pressure to leave a yellow/brown gum. The gum was recrystallised from methanol/water to give the title compound as yellow crystals (325 mg).

reactant | 2-{[5-amino-1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-4-(4-methylphenyl)-1H-pyrazol-3-yl]oxy}ethyl acetate | 0.35 g | C(C)(=O)OCCOC1=NN(C(=C1C1=CC=C(C=C1)C)N)CCO[Si](C)(C)C(C)(C)C | C22H35N3O4Si
reactant | 4-(tert-butyl)phenylsulfonyl chloride | 0.25 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
reactant | sulfonyl chloride | 0.25 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-(N,N-dimethyl)aminopyridine | 98 mg | CN(C)C1=CC=NC=C1 | C7H10N2
catalyst | copper (II) sulfate | 100 ml | S(=O)(=O)([O-])[O-].[Cu+2]
product | 2-{[5-(bis{[4-(tert-butyl)phenyl]sulfonyl}amino}-1-{2-{[tert-butyl(dimethyl)silyl]oxy}ethyl}-4-{4-methylphenyl}-1H-pyrazol-3-yl]oxy}ethyl acetate | 325 mg | C(C)(=O)OCCOC1=NN(C(=C1C1=CC=C(C=C1)C)N(S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)CCO[Si](C)(C)C(C)(C)C | C42H59N3O8S2Si
